US06624163B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-(2-oxo-pyrrolidin-1-yl-methyl)-benzamide
Sodium hydride (48 ms, 0.48 mmol, 60% in mineral oil) are suspended in dimethyl formamide (2.0 ml) and at 0° C. treated with pyrrolidin-2-one. After stirring for 1 h at 50° C., N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-chloromethyl-benzamide (200 mg, 0.48 mmol) was added and the solution stirred for 5 h at 80° C. Removal of the volatile components in vacuo and flash chromatography (silica, eluent dichloromethane/methanol 19:1) afforded the title compound as off-white crystals (86% yield). MS: m/e=467(M+H+).

reactant | Sodium hydride | 0.48 mmol | [H-].[Na+]
reactant | pyrrolidin-2-one | N1C(CCC1)=O | C4H7NO
reactant | N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-chloromethyl-benzamide | 0.48 mmol, 200 mg | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CCl)=O)N2CCOCC2 | C20H20ClN3O3S
solvent | dimethyl formamide | 2.0 ml | CN(C=O)C | C3H7NO
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-(2-oxo-pyrrolidin-1-yl-methyl)-benzamide | 86% yield | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CN2C(CCC2)=O)=O)N2CCOCC2 | C24H26N4O4S
